US09212170B2
(1) Ethyl 2-[(4-tert-butoxy-4-oxobutanoyl)amino]-3-oxobutanoate
4-Tert-butoxy-4-oxobutanoic acid (1.7 g) and N-methylmorpholine (1.1 mL) were dissolved in tetrahydrofuran (60 mL), and the solution was cooled to 0° C. Isobutyl chloroformate (1.3 mL) was added thereto, and the mixture was stirred at 0° C. for 30 minutes. A solution of ethyl 2-amino-3-oxobutanoate hydrochloride (1.8 g) in N,N-dimethylformamide (30 mL) was added thereto, and the mixture was stirred at 0° C. for 5 minutes. Then, N-methylmorpholine (1.1 mL) was added thereto, and the mixture was stirred at room temperature for 20 hours. Ethyl acetate was added to the reaction solution, and the organic layer was washed with water and dried over sodium sulfate. The solvent was distilled off under reduced pressure, and the obtained residue was purified by silica gel column chromatography (Moritex Corporation, elution solvent: hexane/ethyl acetate) to obtain the title compound (2.2 g) as a yellow oil (yield: 72%).

reactant | 4-Tert-butoxy-4-oxobutanoic acid | 1.7 g | C(C)(C)(C)OC(CCC(=O)O)=O | C8H14O4
reactant | N-methylmorpholine | 1.1 mL | CN1CCOCC1 | C5H11NO
reactant | Isobutyl chloroformate | 1.3 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | ethyl 2-amino-3-oxobutanoate hydrochloride | 1.8 g | Cl.NC(C(=O)OCC)C(C)=O
reactant | N-methylmorpholine | 1.1 mL | CN1CCOCC1 | C5H11NO
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl 2-[(4-tert-butoxy-4-oxobutanoyl)amino]-3-oxobutanoate | 2.2 g, yield: 72% | C(C)(C)(C)OC(CCC(=O)NC(C(=O)OCC)C(C)=O)=O | C14H23NO6
